US07371764B2
In a similar procedure to Example 6, 7-hydroxyisoquinoline (commercially available) and 2-bromo-N-(4-methylpent-2-yn-4-yl) 3-methoxypropionamide were reacted to give 2-(7-isoquinolinyloxy)-N-(2-methylpent-3-yn-2-yl)-3-methoxypropionamide (Compound No. 2 of Table 49) as a colourless solid, m.p. 155-156° C.

reactant | 7-hydroxyisoquinoline | OC1=CC=C2C=CN=CC2=C1 | C9H7NO
reactant | 2-bromo-N-(4-methylpent-2-yn-4-yl) 3-methoxypropionamide | BrC(C(=O)NC(C#CC)(C)C)COC | C10H16BrNO2
product | 2-(7-isoquinolinyloxy)-N-(2-methylpent-3-yn-2-yl)-3-methoxypropionamide | C1=NC=CC2=CC=C(C=C12)OC(C(=O)NC(C)(C#CC)C)COC | C19H22N2O3
